US09303016B2
Synthesis of 5-methoxy-2-azatricyclo[3.3.1.13,7]decane, Intermediate-18
To a 50 mL RB flask fitted with magnetic stirrer was charged tert-butyl 5-methoxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-17 (0.1 g, 0.037 mmol) in DCM (5 mL). Then reaction mixture was cooled to 0° C. and trifluoroacetic acid (0.22 g, 1.8 mmol) was added and stirred for 4 hours. After completion of the reaction (reaction was monitored by LCMS) reaction mixture was concentrated followed by trituration with mixture of hexane:ether (1:1) to give Intermediate-18 (0.09 g, yield=95%) as an oily mass.

reactant | tert-butyl 5-methoxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | COC12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C15H25NO3
reactant | trifluoroacetic acid | 1.8 mmol, 0.22 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-methoxy-2-azatricyclo[3.3.1.13,7]decane | yield=95% | COC12CC3NC(CC(C1)C3)C2 | C10H17NO
